US08859591B2
Intermediate (68): (+/−)-ethyl 4-(cyclopentyl(hydroxy)methyl)benzoate
The title compound was prepared by a method analogous to that described for Intermediate (16) using cyclopentanecarbaldehyde and ethyl 4-iodobenzoate. 1H NMR (400 MHz, CDCl3, δ): 8.01 (d, J=8.4 Hz, 2H), 7.40-7.44 (m, 2H), 4.49 (d, J=8.0 Hz, 1H), 4.39 (q, J=7.2 Hz, 2H), 2.19-2.21 (m, 1H), 1.82-1.87 (m, 2H), 1.41-1.67 (m, 6H), 1.39 (t, J=7.2 Hz, 3H).

reactant | cyclopentanecarbaldehyde | C1(CCCC1)C=O | C6H10O
reactant | ethyl 4-iodobenzoate | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
product | (+/−)-ethyl 4-(cyclopentyl(hydroxy)methyl)benzoate | C1(CCCC1)C(C1=CC=C(C(=O)OCC)C=C1)O | C15H20O3
